US09447091B2
N-(4′-fluoro-5-(5-(1-(3-hydroxy-3-methylbutyl)-1H-pyrazol-4-yl)-1H-benzo[d]-imidazol-1-yl)-[1,1′-biphenyl]-3-yl) acetamide
The compound was prepared from N-(5-(5-bromo-1H-benzo[d]imidazol-1-yl)-4′-fluoro-[1,1′-biphenyl]-3-yl)acetamide (0.07 g, 0.164 mmol) using the procedure of Example 200(c) and 2-methyl-4-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)butan-2-ol (0.092 g, 0.329 mmol, 2.0 eq.) to give the title product in 22.2% yield (0.018 g). 1H NMR (300 MHz, DMSO-d6): δ 10.42 (s, 1H), 8.68 (s, 1H), 8.25 (s, 1H), 7.99 (d, 2H), 7.93 (s, 1H), 7.83 (s, 1H), 7.69 (m, 2H), 7.65 (m, 1H), 7.61 (m, 2H), 7.36 (t, 2H), 4.48 (s, 1H); 4.26 (m, 2H); 2.12 (s, 3H); 1.91 (m, 2H); 1.15 (s, 6H); LC-MS (ESI): Calculated mass: 497.56 Observed mass: 497.9 [M+H]+ (rt: 0.9 min).

reactant | N-(5-(5-bromo-1H-benzo[d]imidazol-1-yl)-4′-fluoro-[1,1′-biphenyl]-3-yl)acetamide | 0.164 mmol, 0.07 g | BrC1=CC2=C(N(C=N2)C=2C=C(C=C(C2)C2=CC=C(C=C2)F)NC(C)=O)C=C1 | C21H15BrFN3O
reactant | 2-methyl-4-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)butan-2-ol | 0.329 mmol, 0.092 g, 2.0 eq. | CC(C)(CCN1N=C(C=C1)B1OC(C(O1)(C)C)(C)C)O | C14H25BN2O3
product | N-(4′-fluoro-5-(5-(1-(3-hydroxy-3-methylbutyl)-1H-pyrazol-4-yl)-1H-benzo[d]-imidazol-1-yl)-[1,1′-biphenyl]-3-yl) acetamide | 22.2% yield | FC1=CC=C(C=C1)C1=CC(=CC(=C1)N1C=NC2=C1C=CC(=C2)C=2C=NN(C2)CCC(C)(C)O)NC(C)=O | C29H28FN5O2
